US05304558
1-(diphenylmethyl)piperazine (10.0 g) was dissolved in acetonitrile (50 ml) and sodium carbonate (6.5 g) and epibromohydrin (6.8 g) were added thereto and heated at reflux for 2.5 hours. After the resultant salt was filtered, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Waco Gel C-200, 200 g) and eluted with a mixed solvent of chloroform (99 parts)+methanol (1 part) to give 1-(diphenylmethyl)-4-(1-(2,3-epoxy) propyl)piperazine (5.9 g).

reactant | 1-(diphenylmethyl)piperazine | 10.0 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | 6.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | epibromohydrin | 6.8 g | C(Br)C1CO1 | C3H5BrO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(diphenylmethyl)-4-(1-(2,3-epoxy) propyl)piperazine | 5.9 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC1CO1)C1=CC=CC=C1 | C20H24N2O
